US05112998
The procedure of Example 36 was repeated except that 2.2 mg (0.005 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-ol was used in lieu of 2.2 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregn-5-ene-3β,7α-diol to give 1.0 mg of 1α,2α-epoxy-3β-hydroxypregna-5,7-diene-20-carbaldehyde (yield: 58%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-ol | 0.005 mmole, 2.2 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O)C | C27H40O4
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregn-5-ene-3β,7α-diol | 2.2 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O)O)C | C27H42O5
product | 1α,2α-epoxy-3β-hydroxypregna-5,7-diene-20-carbaldehyde | 1.0 mg, yield: 58% | O1[C@H]2[C@@H]1[C@@H](CC1=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]21C)C)O | C22H30O3
